US04804665
2-Hydroxy-8-methyl-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride
The compound No. 1 (2-benzyloxy-8-methyl-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride (6.4 g), listed in Table 1 in Example 4) was dissolved in 50 ml of methanol-water (1 to 1, v/v), and this was followed by catalytic hydrogen reduction for about 1 hour in the presence of palladium catalyst. The resulting solid was recrystallized from ethanol to obtain 4.3 g of a colorless crystal having a melting point of from 284° to 286° C.

reactant | 2-benzyloxy-8-methyl-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride | 6.4 g | Cl.C(C1=CC=CC=C1)ON1C(C2(CC1=O)CCN(CC2)C)=O
reactant | hydrogen | [H][H] | H2
solvent | methanol water | 50 ml | CO.O
catalyst | palladium | [Pd] | Pd
product | 2-Hydroxy-8-methyl-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride | 4.3 g | Cl.ON1C(C2(CC1=O)CCN(CC2)C)=O | InChI=1S/C9H14N2O3.ClH/c1-10-4-2-9(3-5-10)6-7(12)11(14)8(9)13;/h14H,2-6H2,1H3;1H
